US07777047B2
7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide
A mixture of 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid (2.50 g), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (1.89 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (2.38 g) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was washed with hexane to give the title compound (2.23 g, yield 89%) as pale-yellow crystals. The crystals were recrystallized from ethyl acetate-hexane to give colorless prism crystals. melting point >300° C.

reactant | 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylic acid | 2.50 g | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C(=O)O)OC(F)(F)F | C14H9F3N2O5S2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 2.38 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxamide | 2.23 g, yield 89% | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C(=O)N)OC(F)(F)F | C14H10F3N3O4S2
